US06960614B2
3,4-Difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-methylamino-ethoxy)-benzamide, hydrochloride salt
[2-({1-[3,4-Difluoro-2-(2-fluoro-4-iodo-phenylamino)-phenyl]-methanoyl}-aminooxy)-ethyl]-methyl-carbamic acid tert-butyl ester (3.28 g, 5.80 mmol) was dissolved in ethereal hydrogen chloride solution (20 mL, 1.0 M in diethyl ether). The resultant solution was stirred at ambient temperature for 48 h, during which precipitation of a white solid ensued. Hexanes (20 mL) was added and the reaction mixture was stirred vigorously for an additional 20 min. The reaction mixture was filtered, and the filter cake was broken up with a spatuala. The solid was washed with hexanes (50 mL) and ether (20 mL) and was dried in vacuo to afford a free-flowing, tan-colored powder (2.46 g, 85% yield). Recrystallization from acetonitrile afforded colorless needles: m.p. 173-176° C.; 1H NMR (400 MHz, DMSO-d6) δ 12.27 (s, 1H), 8.76 (br s, 2H), 8.64 (s, 1H), 7.55 (dd, J=11.0, 1.9 Hz, 1H), 7.47 (dd, J=7.1, 6.3 Hz, 1H), 7.33 (d, J=8.3 Hz, 1H), 7.23 (dt, J=7.6, 9.2 Hz, 1H), 6.64 (td, J=8.8, 4.2 Hz, 1H), 4.05 (t, 4.9 Hz, 2H), 3.11 (br s, 2H), 2.56 (t, J=4.6 Hz, 3H); 19F NMR (376 MHz, DMSO-d6) δ −128.2 (t, J=10.1 Hz), −132.5 (d, J=20.2 Hz), −144.0 (d, 20.2 Hz). Anal Calcd./Found for C16H16F3IN3O2Cl: C, 38.31/38.20; H, 3.21/3.10; N, 8.38/8.34; F, 11.36/11.21; Cl, 7.07/7.05.

reactant | [2-({1-[3,4-Difluoro-2-(2-fluoro-4-iodo-phenylamino)-phenyl]-methanoyl}-aminooxy)-ethyl]-methyl-carbamic acid tert-butyl ester | 5.80 mmol, 3.28 g | C(C)(C)(C)OC(N(C)CCONC(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)=O | C21H23F3IN3O4
reactant | hydrogen chloride | 1.0 M, 20 mL | Cl | ClH
product | 3,4-Difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-methylamino-ethoxy)-benzamide, hydrochloride salt | 2.46 g, 85% yield | Cl.FC=1C(=C(C(=O)NOCCNC)C=CC1F)NC1=C(C=C(C=C1)I)F | InChI=1S/C16H15F3IN3O2.ClH/c1-21-6-7-25-23-16(24)10-3-4-11(17)14(19)15(10)22-13-5-2-9(20)8-12(13)18;/h2-5,8,21-22H,6-7H2,1H3,(H,23,24);1H
